US09403773B2
Methyl 4-(5-fluoro-4-oxo-8-propoxy-1,4-dihydroquinolin-3-yl)benzoate (330 mg, 0.93 mmol) was suspended in a mixed solvent of ethanol (3 ml) and THF (3 ml). A 1.24N lithium hydroxide aqueous solution (2 ml) was added, and the mixture was stirred at room temperature for 3 hours. Water was added to the reaction mixture, and then the resulting mixture was extracted with dichloromethane. The organic layer was washed with water, dried over magnesium sulfate, and concentrated to dryness under reduced pressure to thereby obtain 300 mg of powdery white 4-(5-fluoro-4-oxo-8-propoxy-1,4-dihydroquinolin-3-yl)benzoic acid (yield: 95%).

reactant | Methyl 4-(5-fluoro-4-oxo-8-propoxy-1,4-dihydroquinolin-3-yl)benzoate | 0.93 mmol, 330 mg | FC1=C2C(C(=CNC2=C(C=C1)OCCC)C1=CC=C(C(=O)OC)C=C1)=O | C20H18FNO4
reactant | ethanol | 3 ml | C(C)O | C2H6O
reactant | THF | 3 ml | C1CCOC1 | C4H8O
reactant | lithium hydroxide | 1.24N, 2 ml | [OH-].[Li+]
solvent | Water | O | H2O
product | 4-(5-fluoro-4-oxo-8-propoxy-1,4-dihydroquinolin-3-yl)benzoic acid | 300 mg, yield: 95% | FC1=C2C(C(=CNC2=C(C=C1)OCCC)C1=CC=C(C(=O)O)C=C1)=O | C19H16FNO4
